US07309715B2
Synthesis of 2,5-dichloro-(2-methyl-benzooxazol-6-yl)-benzenesulfonamide, STX 841 (KRB01011):
To a solution of 2,5-dichlorobenzenesulphonyl chloride (174 mg, 0.709 mmol) in dichloromethane (3 mL) was added pyridine (140 μL, 1.72 mmol) and the mixture was stirred under N2 for 5 min, after which time 6-amino-2-methylbenzoxazole (100 mg, 0.675 mmol) was added. The resulting mixture was stirred for 1 h at room temperature, then saturated NaHCO3 solution was added (8 mL) and the mixture was extracted into ethyl acetate (15 mL). The organic phase was washed with brine, dried (Na2SO4), filtered and evaporated to give a residue that was purified using flash chromatography to afford a white solid (154 mg, 64%), single spot at Rf 0.50 (60:40 hexane:ethyl acetate). mp 167.0-167.3° C., HPLC purity 97% (tR 1.97 min in 10% water-acetonitrile). 1H NMR (CDCl3): δ 7.93 (1H, d, J=2.3 Hz), 7.47 (1H, d, J=8.6 Hz), 7.46-7.40 (4H, m), 7.00 (1H, dd, J=8.6, 2.0 Hz), 2.61 (3H, s). LCMS: 355.07 (M−). FAB-MS (MH+, C14H10Cl2N2O3S): calcd 356.9867, found 356.9875.

reactant | 2,5-dichlorobenzenesulphonyl chloride | 0.709 mmol, 174 mg | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | pyridine | 1.72 mmol, 140 μL | N1=CC=CC=C1 | C5H5N
reactant | 6-amino-2-methylbenzoxazole | 0.675 mmol, 100 mg | NC1=CC2=C(N=C(O2)C)C=C1 | C8H8N2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2,5-dichloro-(2-methyl-benzooxazol-6-yl)-benzenesulfonamide | 154 mg, 64% | ClC1=C(C=C(C=C1C1=CC2=C(N=C(O2)C)C=C1)Cl)S(=O)(=O)N | C14H10Cl2N2O3S
